US05723444
(vii) (3RS)-1-(N-benzyloxycarbonylamidino)-3-aminoethyl pyrrolidine (H-(R,S)Hig(Z))
2.18 g (0.0102 mole) (3RS)-3-(N-tert-butyloxycarbonylaminoethyl) pyrrolidine and 2.81 g (0.0125 mole) N-benzyloxycarbonyl-S-methylisothiourea was dissolved in 30 ml toluene and heated to 60°-70° C. for eight hours followed by stirring at room temperature for one day. 0.3M KHSO4 -solution was added and the water layer was washed with a mixture of the toluene and ethyl acetate and left for 2 days under which time the Boc group was removed. The acidic water phase was made alkaline and extracted four times with CH2 Cl2. The combined organic layer was dried (Na2SO4), filtered and evaporated to yield 2.0 g (51%) of the title compound.

reactant | (3RS)-3-(N-tert-butyloxycarbonylaminoethyl) pyrrolidine | 0.0102 mole, 2.18 g | C(C)(C)(C)OC(=O)NCCC1CNCC1 | C11H22N2O2
reactant | N-benzyloxycarbonyl-S-methylisothiourea | 0.0125 mole, 2.81 g | C(C1=CC=CC=C1)OC(=O)NC(SC)=N | C10H12N2O2S
reactant | KHSO4 | 0.3M | OS(=O)(=O)[O-].[K+]
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | (3RS)-1-(N-benzyloxycarbonylamidino)-3-aminoethyl pyrrolidine | 2.0 g, 51% | C(C1=CC=CC=C1)OC(=O)NC(=N)N1CC(CC1)CCN | C15H22N4O2
